US09290517B2
Step A: tert-butyl 2-pyrimidin-2-yl-2,6-diazaspiro[3.3]heptane-6-carboxylate
A 2 L round-bottom flask was charged with tert-butyl 2,6-diazaspiro[3,3]heptane-6-carboxylate (64.3 g, 0.32 mol), cesium carbonate (317.0 g, 0.97 mol), 2-chloropyrimidine (45.5 g, 0.4 mol), and DMF (759.0 mL). The reaction mixture was heated to 100-105° C. for 20 min. The reaction mixture was cooled to ambient temperature, diluted with water (759.0 mL) and EtOAc (759.0 mL). The organic layer was washed with water (2×500.0 mL) and brine (500.0 mL). The organic layer was dried over sodium sulfate and filtered through Celite™. The filtrate was concentrated under reduced pressure. Column chromatography of the resulting crude product on silica gel, eluting with EtOAc and heptane (50-100%) afforded the desired product.

reactant | tert-butyl 2,6-diazaspiro[3,3]heptane-6-carboxylate | 0.32 mol, 64.3 g | C1NCC12CN(C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | cesium carbonate | 0.97 mol, 317.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloropyrimidine | 0.4 mol, 45.5 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DMF | 759.0 mL | CN(C)C=O | C3H7NO
solvent | water | 759.0 mL | O | H2O
solvent | EtOAc | 759.0 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 2-pyrimidin-2-yl-2,6-diazaspiro[3.3]heptane-6-carboxylate | N1=C(N=CC=C1)N1CC2(C1)CN(C2)C(=O)OC(C)(C)C | C14H20N4O2
